US08748623B2
6-Chloronicotinoyl chloride (353 mg, 2.0 mmol) was dissolved in anhydrous DMF (2 mL) and slowly added to a stirring solution of 4-fluoro-N-methylaniline (242 μL, 2.0 mmol) and DBU (300 μL, 2.0 mmol) in anhydrous DMF (2 mL). After 90 minutes, the DMF was removed in vacu and the reaction was partitioned between ethyl acetate and water. The ethyl acetate layer was washed with water and brine, dried over sodium sulfate, filtered, and dried in vacu. The crude solid was purified by silica plug (1:1 ethyl acetate/hexanes) to yield 6-Chloro-N-(4-fluoro-phenyl)-N-methyl-nicotinamide as an off-white, glassy solid (411 mg, 77%).

reactant | 6-Chloronicotinoyl chloride | 2.0 mmol, 353 mg | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | 4-fluoro-N-methylaniline | 2.0 mmol, 242 μL | FC1=CC=C(NC)C=C1 | C7H8FN
reactant | DBU | 2.0 mmol, 300 μL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 6-Chloro-N-(4-fluoro-phenyl)-N-methyl-nicotinamide | ClC1=NC=C(C(=O)N(C)C2=CC=C(C=C2)F)C=C1 | C13H10ClFN2O
